US06399627B1
To a solution of bis(2,2,2-trifluoroethyl)(methoxycarbonylmethyl)phosphonate (0.39 ml, 1.87 mmol) in 5 ml anhydrous tetrahydrofuran was added a solution of 18-crown-6 (2 g, 7.8 mmol) in 5 ml anhydrous tetrahydrofuran. Reaction was cooled to −78° C. to which a 0.5M solution of potassium bis(trimethylsilyl)amide in toluene (0.93 ml, 1.87 mmol) was added all at once. The reaction mixture was stirred at −78° C. for 20 minutes after which a solution of 3-[2-(1H-1-pyrazolyl)acetyl]-benzonitrile (330 mg, 1.56 mmol) in 5 ml anhydrous tetrahydrofuran was added dropwise over several minutes. Reaction was gradually allowed to warm to room temperature and stirred for 5 hours. Reaction was then quenched with a saturated ammonium chloride solution (10 ml) and extracted with 2×25 ml diethyl ether. Combined organic layers were washed with 2×25 ml water, 2×25 ml saturated brine solution, dried over magnesium sulfate, filtered and concentrated to a brown residue. Crude residue was chromatographed on silica gel using a gradient of 5% EtOAc in hexane containing 0.1% triethylamine to 20% EtOAc in hexane containing 0.1% triethylamine to give methyl (E)-3-(3-cyanophenyl)-4-(1H-1-pyrazolyl)-2-butenoate (135 mg, 32%) as a clear oil after drying. H1NMR (CDCl3) 3.521 (s, #H); 4.98 (s, 2H); 5.694 (s, H); 6.237-6.247 (t, H); 7.296-7.593 (m, 6H). NOE experiment confirmed the stereochemical configuration.

reactant | bis(2,2,2-trifluoroethyl)(methoxycarbonylmethyl)phosphonate | 1.87 mmol, 0.39 ml | FC(COP(OCC(F)(F)F)(=O)CC(=O)OC)(F)F | C7H9F6O5P
reactant | 18-crown-6 | 7.8 mmol, 2 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | toluene | 1.87 mmol, 0.93 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-[2-(1H-1-pyrazolyl)acetyl]-benzonitrile | 1.56 mmol, 330 mg | N1(N=CC=C1)CC(=O)C=1C=C(C#N)C=CC1 | C12H9N3O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | methyl (E)-3-(3-cyanophenyl)-4-(1H-1-pyrazolyl)-2-butenoate | 135 mg, 32% | C(#N)C=1C=C(C=CC1)\C(=C/C(=O)OC)\CN1N=CC=C1 | C15H13N3O2
